US08071592B2
(b) 5-Fluoro-2,3-pyridinediamine
A suspension of 5-fluoro-3-nitro-2-pyridinamine (561 mg, 3.573 mmol) in ethanol (100 ml) was treated with added 10% Pd/C (100 mg) and the mixture was then stirred at rt under 1 atmosphere of hydrogen for 5 h. The reaction mixture was then filtered through a thin pad of Celite, washing through with EtOH (500 ml). The filtrate was evaporated to give the desired product as a grey solid (435 mg, 96%).

reactant | 5-fluoro-3-nitro-2-pyridinamine | 3.573 mmol, 561 mg | FC=1C=C(C(=NC1)N)[N+](=O)[O-] | C5H4FN3O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 5-Fluoro-2,3-pyridinediamine | 435 mg, 96% | FC=1C=C(C(=NC1)N)N | C5H6FN3
